US04835313
Step E: [6,7-Dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2-propyl-1H-inden-5-yl]acetic acid
Crude diethyl 2-[6,7-dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2-propyl-1H-inden-5-yl]malonate (36.9 g, 0.075 mole) was refluxed with stirring in a mixture of ethanol (100 ml), water (100 ml) and sodium hydroxide (15 g) for 2 hours. The reaction mixture was cooled, diluted with water and extracted with hexane. The aqueous layer was acidified with hydrochloric acid and extracted with methylene chloride. The organic extracts were washed with water, dried over MgSO4 and concentrated under vacuum to obtain 17 g of product which after recrystallization from a mixture of methyl cyclohexane and butyl chloride melted at 111°-114° C. and was shown by HPLC to be a 95% trans, 5% cis mixture.

reactant | diethyl 2-[6,7-dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2-propyl-1H-inden-5-yl]malonate | 0.075 mole, 36.9 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CCC)CC=C(C)Cl)C(C(=O)OCC)C(=O)OCC | C23H27Cl3O5
reactant | sodium hydroxide | 15 g | [OH-].[Na+]
solvent | ethanol | 100 ml | C(C)O | C2H6O
solvent | water | O | H2O
solvent | water | 100 ml | O | H2O
product | [6,7-Dichloro-2-(3-chloro-2-butenyl)-2,3-dihydro-1-oxo-2-propyl-1H-inden-5-yl]acetic acid | 17 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(CCC)CC=C(C)Cl)CC(=O)O | C18H19Cl3O3
